US06838463B2
To 14 ml of ethanol were added 2.2 g of 4,6-dichloropyrimidine and 2.3 g of 2,3-difluoroaniline, followed by heating under reflux for 6 hours. The reaction mixture was then left for cooling to room temperature and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give 3.5 g of 4-chloro-6-(2,3-difluoroanilino)pyrimidine.

reactant | 4,6-dichloropyrimidine | 2.2 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2,3-difluoroaniline | 2.3 g | FC1=C(N)C=CC=C1F | C6H5F2N
solvent | ethanol | 14 ml | C(C)O | C2H6O
product | 4-chloro-6-(2,3-difluoroanilino)pyrimidine | 3.5 g | ClC1=NC=NC(=C1)NC1=C(C(=CC=C1)F)F | C10H6ClF2N3
